US05192786
The procedures of Example 1 were followed using 4-hydroxy-3'-chlorostilbene (5.0 g, 23 mmol) and 1-bromo-3-chloropropane (4.4 mL, 43 mmol) to give 6.1 g (87%) of (E)-4-chloropropoxy-3'-chlorostilbene as an amber oil. 1NMR (CDCl3): δ7.66-6.72(m,10H), 4.11(t,2H), 3.72(t,2H), 2.22(m,2H).

reactant | 4-hydroxy-3'-chlorostilbene | 23 mmol, 5.0 g | OC1=CC=C(C=C1)C=CC1=CC(=CC=C1)Cl | C14H11ClO
reactant | 1-bromo-3-chloropropane | 43 mmol, 4.4 mL | BrCCCCl | C3H6BrCl
product | (E)-4-chloropropoxy-3'-chlorostilbene | 6.1 g, 87% | ClCCCOC1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)Cl | C17H16Cl2O
